US07652049B2
To a solution of (1R,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}propane-1,2-diamine (25.1 mg, 0.0424 mmol) in dichloroethane (1.5 mL) was added triethylamine (15 μL, 0.105 mmol) and diphenyl cyanocarbonimidate (13 mg, 0.053 mmol). The reaction was heated at 60° C. overnight, cooled to room temperature, filtered, and loaded directly onto a silica gel column for purification by flash chromatography with 10 to 40% EtOAc/hexanes to afford ((4R,5S)-4-[3,5-bis(trifluoromethyl)phenyl]-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-5-methylimidazolidin-2-ylidene)cyanamide. Rf=0.20 (25% EtOAc/hexanes). LCMS=643.3 (M+1)+. 1H NMR (C6D6, 500 MHz; atropisomers present, doubling of some peaks) δ 6.53-8.83 (m, 10H), 3.61-4.91 (m, 3H), 3.28-2.70 (m, 5H), 1.14-1.25 (m, 6H), −0.39-0.26 (m, 3H).

reactant | (1R,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}propane-1,2-diamine | 0.0424 mmol, 25.1 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]([C@H](C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)N)(F)F | C29H29F9N2O
reactant | triethylamine | 0.105 mmol, 15 μL | C(C)N(CC)CC | C6H15N
reactant | diphenyl cyanocarbonimidate | 0.053 mmol, 13 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
product | ((4R,5S)-4-[3,5-bis(trifluoromethyl)phenyl]-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-5-methylimidazolidin-2-ylidene)cyanamide | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]1NC(N([C@H]1C)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)=NC#N)(F)F | C31H27F9N4O
